US07550484B2
To a solution of 4-((2′R,6′S)-3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-2-isopropylideneaminooxy-benzonitrile (0.145 g, 0.320 mmol) in EtOH (4 mL) was added aqueous HCl (3 N, 4 mL), and the mixture was stirred and heated at reflux overnight. The mixture was then cooled to room temperature, EtOH was removed, and saturated aqueous NaHCO3 (20 mL) was added. The aqueous mixture was extracted with CH2Cl2 (4×40 mL), and the combined extract was dried over Na2SO4. After filtration the solvent was removed by evaporation under vacuum, and the residue was purified on silica gel column (100:5:2 CH2Cl2/CH3OH/NH4OH), affording 6-((2′S,6′R)-3,3″-dimethyl-3′, 4′, 5′, 6′-tetrahydro-2H-2,2′;6′,2″-terpyridin-1′-ylmethyl)-1,2-benzisoxazol-3-ylamine as a white solid (0.082 g, 62%).

reactant | 4-((2′R,6′S)-3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-2-isopropylideneaminooxy-benzonitrile | 0.320 mmol, 0.145 g | CC=1C(=NC=CC1)[C@@H]1N([C@@H](CCC1)C1=NC=CC=C1C)CC1=CC(=C(C#N)C=C1)ON=C(C)C | C28H31N5O
reactant | HCl | 3 N, 4 mL | Cl | ClH
solvent | EtOH | 4 mL | CCO | C2H6O
product | 6-((2′S,6′R)-3,3″-dimethyl-3′, 4′, 5′, 6′-tetrahydro-2H-2,2′;6′,2″-terpyridin-1′-ylmethyl)-1,2-benzisoxazol-3-ylamine | 0.082 g, 62% | CC=1C(NC=CC1)[C@H]1N([C@H](CCC1)C1=NC=CC=C1C)CC1=CC2=C(C(=NO2)N)C=C1 | C25H29N5O
